US09255110B2
A mixture of pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-chloro-2-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-amide (40 mg) and an aqueous solution of hydrochloric acid (2 M, 5 mL) in tetrahydrofuran (5 mL) was heated at 70° C. for 15 minutes. The resulting mixture was cooled and the solid formed was collected by filtration, washed with a diluted aqueous solution of sodium hydroxide and with water, dried in a vacuum oven to give 30 mg of pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-chloro-2-((R)-2,3-dihydroxy-propoxy)-phenyl]-amide as a white solid. MS=362 [M]+.

reactant | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-chloro-2-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-amide | 40 mg | ClC=1C=CC(=C(C1)NC(=O)C=1C=NN2C1N=CC=C2)OC[C@@H]2OC(OC2)(C)C | C19H19ClN4O4
reactant | hydrochloric acid | 2 M, 5 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-chloro-2-((R)-2,3-dihydroxy-propoxy)-phenyl]-amide | 30 mg | ClC=1C=CC(=C(C1)NC(=O)C=1C=NN2C1N=CC=C2)OC[C@@H](CO)O | C16H15ClN4O4
